US07517996B2
(Step 1) Synthesis of 4-(2-chloroethyl)benzaldehyde
4-(2-Chloroethyl)benzoic acid (2.00 g, 10.83 mmol) was dissolved in THF (40 ml) under an argon atmosphere, and 1M borane-THF complex (16 ml, 16.00 mmol) was slowly added dropwise under ice-cooling. After stirring at room temperature for 2 hours, 1N sulfuric acid (36 ml) was added, and the mixture was stirred for 1 hour and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained crude product was dissolved in dichloromethane (50 ml). Manganese dioxide (10.00 g) was added, and the mixture was stirred overnight at room temperature. After filtration through celite, the filtrate was concentrated under reduced pressure to give the title compound (1.71 g, 91%).

reactant | 4-(2-Chloroethyl)benzoic acid | 10.83 mmol, 2.00 g | ClCCC1=CC=C(C(=O)O)C=C1 | C9H9ClO2
reactant | sulfuric acid | 1N, 36 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 10.00 g | [O-2].[O-2].[Mn+4]
product | 4-(2-chloroethyl)benzaldehyde | 1.71 g, 91% | ClCCC1=CC=C(C=O)C=C1 | C9H9ClO
